US05597823
3-(N-Methyamino)-2-carboethoxy-benzothiophene
3-Amino-2-carboethoxy-benzothiophene (1.11 g, 5 mmol) was reacted with formic acetic anhydride followed by reduction by BH3.DMS, using the procedure described by Krishmanurthy in Tetrahedron Lett, 23:33 15-8 (1982), to yield 0.59 g of the title compound as a light yellow solid. 1H NMR (300 MHz, CDCl3) δ 1.39 (t, 3H), 3.41 (d, 3H), 4.33 (q, 2H), 7.28 (t, 1H), 7.41 (t, 1H), 7.53 (br s, 1H) (d, 1H), 8.18 (d, 1H).

reactant | 3-Amino-2-carboethoxy-benzothiophene | 5 mmol, 1.11 g | NC1=C(SC2=C1C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | formic acetic anhydride | C(C)(=O)OC=O | C3H4O3
reactant | DMS | CSC | C2H6S
product | 3-(N-Methyamino)-2-carboethoxy-benzothiophene | 0.59 g | CNC1=C(SC2=C1C=CC=C2)C(=O)OCC | C12H13NO2S
